US03956495
A mixture of 5 g of 2-chloro-4-(4-methylpiperazinyl)quinazoline, 5 ml of morpholine, and 10 ml of ethanol was refluxed for 16 hours. The reaction mixture was diluted with 200 ml of water, made alkaline with 10 ml of 50 percent aqueous sodium hydroxide solution, and extracted with ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, filtered, and evaporated to dryness. The residue was dissolved in 500 ml of ether. The ethereal solution was treated with excess hydrogen chloride and the resulting precipitate was collected by filtration. The crude product was recrystallized twice from 95 percent ethanol, giving 3 g of 2-morpholino-4-(4-methylpiperazinyl)quinazoline dihydrochloride, dihydrate; m.p. 310°-312° with decomposition. The following analytical data were obtained:

reactant | 2-chloro-4-(4-methylpiperazinyl)quinazoline | 5 g | ClC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C | C13H15ClN4
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-morpholino-4-(4-methylpiperazinyl)quinazoline dihydrochloride | 3 g | Cl.Cl.O1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C | InChI=1S/C17H23N5O.2ClH/c1-20-6-8-21(9-7-20)16-14-4-2-3-5-15(14)18-17(19-16)22-10-12-23-13-11-22;;/h2-5H,6-13H2,1H3;2*1H
